US04155909
To 20.0 g (0.124 mole) of 1-(2-picolyl)pyrrolidine, obtained via the alkylation of 2-bromomethylpyridine with pyrrolidine, in 100 ml acetonitrile was added one equivalent of cyanomethyl benzenesulfonate in 50 ml acetonitrile maintaining the temperature at about 25°. After the addition was complete, the reaction was stirred at room temperature for 18 hours. The acetonitrile was removed under reduced pressure and tetrahydrofuran was added. The crystalline product was collected by filtration and washed with tetrahydrofuran and ether. After air drying, the yield of colorless crystals was 38.5 g (86%), m.p. 118.5°-120°.

reactant | 2-bromomethylpyridine | BrCC1=NC=CC=C1 | C6H6BrN
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(2-picolyl)pyrrolidine | 0.124 mole, 20.0 g | N1=C(C=CC=C1)CN1CCCC1 | C10H14N2
